US07511059B2
2-Chloro-N-(3-nitro-phenyl)-acetamide
13.8 g of 3-nitroaniline is dissolved in 500 ml of tetrahydrofuran. 30.5 ml of triethylamine and 19.4 g of chloroformic acid anhydride are added at 0° C. It is stirred for 12 hours at room temperature. The reaction mixture is mixed with semi-saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic solution is washed with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation and after purification by chromatography on silica gel, 20.0 g of the title compound is obtained.

reactant | 3-nitroaniline | 13.8 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 30.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid anhydride | 19.4 g | ClC(=O)OC(=O)Cl | C2Cl2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-Chloro-N-(3-nitro-phenyl)-acetamide | 20.0 g | ClCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C8H7ClN2O3
